US08119676B2
tert-Butyl bromo-phenylacetate
A mixture of 7.9 g (44.1 mmol) of bromo-phenylacetic acid in tert-butyl acetate (100 ml) was cooled in an ice/water bath. 0.5 ml of perchloric acid was added, and the reaction solution was stirred at room temperature overnight. The reaction solution was slowly added to a saturated aqueous sodium bicarbonate solution (200 ml), and the organic phase was separated off. The aqueous phase was extracted twice with 60 ml of ethyl acetate each time, the combined organic phases were washed with saturated aqueous sodium bicarbonate solution and dried over magnesium sulfate, and the solvent was removed in vacuo. Yield: 8.41 g (84%) of colorless oil

reactant | bromo-phenylacetic acid | 44.1 mmol, 7.9 g | BrC(C(=O)O)C1=CC=CC=C1 | C8H7BrO2
reactant | perchloric acid | 0.5 ml | Cl(=O)(=O)(=O)O | ClHO4
reactant | sodium bicarbonate | 200 ml | C([O-])(O)=O.[Na+]
solvent | tert-butyl acetate | 100 ml | C(C)(=O)OC(C)(C)C | C6H12O2
product | tert-Butyl bromo-phenylacetate | BrC(C(=O)OC(C)(C)C)C1=CC=CC=C1 | C12H15BrO2
